US04001229
Procedure 8. 4'-Benzoyl-N-(2-diethylaminoethyl)methanesulfonanilide.
4'-Benzoylmethanesulfonanilide (69.5 g., 0.252 mole) is dissolved in 1.4 1. of acetonitrile and heated to reflux. Potassium carbonate (35.0 g., 0.253 mole) is added followed by dropwise addition of 2-chlorotriethylamine (34.2 g., 0.252 mole) during 15 min. The reaction mixture is refluxed for 2 hrs. and then kept at room temperature for about 16 hrs. The mixture is filtered and the filtrate concentrated under vacuum. The resulting oil is dissolved in 3N HCl, the acidic solution washed with ethyl ether, and then basified with 50% aqueous NaOH to pH 11.0. The amine which separates is extracted into ethyl ether, and the ether solution is washed first with water, then with saturated sodium chloride, and dried (MgSO4). The ether is removed under reduced pressure to give 89.2 g. (95% yield) of oil which solidifies, m.p. 74°-76°C.

reactant | 4'-Benzoylmethanesulfonanilide | 0.252 mole, 69.5 g | C(C1=CC=CC=C1)(=O)C1=CC=C(NS(=O)(=O)C)C=C1 | C14H13NO3S
reactant | Potassium carbonate | 0.253 mole, 35.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chlorotriethylamine | 0.252 mole, 34.2 g | CCN(CC)CCCl | C6H14ClN
solvent | acetonitrile | C(C)#N | C2H3N
product | 4'-Benzoyl-N-(2-diethylaminoethyl)methanesulfonanilide | 95% yield | C(C1=CC=CC=C1)(=O)C1=CC=C(N(S(=O)(=O)C)CCN(CC)CC)C=C1 | C20H26N2O3S
